US04972009
alpha-Phenyl-N-(1,2,2,6,6-pentamethylpiperidin-4-yl) nitrone
Following the general procedure of Example 1, the title compound is prepared from 5.0 g (29.4 mmol) of 1,2,2,6,6-pentamethylpiperidin-4-one oxime and 3.1 g [29 mmol) of benzaldehyde in a yield of 2.3 g (30%) of a white solid which after recrystallization from heptane melts at 104°-105° C. 1HMR (200 MHz, CDCl3)δ 8.26 (m, 2H's); 7.45 (s, 1H); 7.40 (m, 3H's); 4.18 (tt, IH); 2.28 (s, 3H's); 2.13 (t, 2H's); 1.93 (dd, 2H's); 1.23 (s, 6H's); 1.10 (s, 6H's). IR (CDCl3) 3020, 2950, 1570, 1550,

reactant | 1,2,2,6,6-pentamethylpiperidin-4-one oxime | 29.4 mmol, 5.0 g | CN1C(CC(CC1(C)C)=NO)(C)C | C10H20N2O
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
product | alpha-Phenyl-N-(1,2,2,6,6-pentamethylpiperidin-4-yl) nitrone | C1(=CC=CC=C1)C=[N+]([O-])C1CC(N(C(C1)(C)C)C)(C)C | C17H26N2O
